US05858995
10%-Palladium on carbon (30 mg) was added to a solution of 3-(2-ethoxycarbonylethenyl)-2-methyl-7-nitrobenzo[b]furan (210 mg) in a mixture of dioxane (3 ml) and ethanol (1 ml). The mixture was hydrogenated at 3 atoms for 3 hours and the catalyst was filtered off. The filtrate was concentrated in vacuo to give 7-amino-3-(2-ethoxycarbonylethyl)-2-methylbenzo[b]furan (195 mg).

reactant | 3-(2-ethoxycarbonylethenyl)-2-methyl-7-nitrobenzo[b]furan | 210 mg | C(C)OC(=O)C=CC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C14H13NO5
catalyst | Palladium on carbon | 30 mg | [Pd] | Pd
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 7-amino-3-(2-ethoxycarbonylethyl)-2-methylbenzo[b]furan | 195 mg | NC1=CC=CC2=C1OC(=C2CCC(=O)OCC)C | C14H17NO3
